US07432378B2
6-Chloro-4-methyl-2-[2-methyl-4-(3-piperidin-4-yl-propoxy)-phenyl]-1H-benzoimidazole
To a solution of (3-hydroxy-propyl)-piperidine-1-carboxylic acid tert-butyl ester (4.00 g, 16.4 mmol, 1.0 equiv) and triethylamine (3.40 mL, 24.6 mmol, 1.5 equiv) in dichloromethane at 0° C. was added methanesulfonyl chloride (1.53 mL, 19.7 mmol, 1.2 equiv). The solution was warmed to rt and stirred for 1.0 h then poured into satd. aq. NaHCO3. The aqueous mixture was extracted three times with chloroform and the combined extracts were dried (Na2SO4), filtered, and concentrated. The residue was subjected to column chromatography (silica gel, 10% methanol in dichloromethane). The partially purified 4-(3-methanesulfonyloxy-propyl)-piperidine-1-carboxylic acid tert-butyl ester (500 mg, 1.56 mmol, 1.0 equiv) was stirred with 4-hydroxy-2-methyl-benzaldehyde (212 mg, 1.56 mmol, 1.0 equiv) and cesium carbonate (1.01 g, 3.12 mmol, 2.0 equiv) in acetonitrile at rt for 4 d. The mixture was filtered through diatomaceous earth and the filtrate was concentrated. The crude material was partially purified by column chromatography (silica gel, 25% ethyl acetate in hexanes). 4-[3-(4-Formyl-3-methyl-phenoxy)-propyl]-piperidine-1-carboxylic acid tert-butyl ester (146 mg, 0.41 mmol, 1.0 equiv), 5-chloro-3-methyl-benzene-1,2-diamine (63 mg, 0.41 mmol, 1.0 equiv), and Na2S2O5 (100 mg, 0.53 mmol, 1.3 equiv) were stirred at 90° C. in DMF for 2.5 h. The mixture was cooled to rt and water (75 mL) was added causing a light brown precipitate to form. The solid 4-{3-[4-(6-chloro-4-methyl-1H-benzoimidazol-2-yl)-3-methyl-phenoxy]-propyl}-piperidine-1-carboxylic acid tert-butyl ester was collected by filtration, dissolved in a solution of dichloromethane (2.0 mL) and trifluroacetic acid (1.0 mL), and stirred at rt for 1.5 h. The reaction mixture was loaded directly on silica gel and purified according to Method 2, which afforded 52.1 mg of the title compound. MS (electrospray): mass calculated for C23H28ClN3O, 397.19; m/z found, 398.3 [M+H]+. 1H NMR (400 MHz, CD3OD): 7.55 (d, J=8.4 Hz, 1H), 7.42 (br s, 1H), 7.10-7.07 (m, 1H), 6.96-6.95 (m, 1H), 6.91 (dd, J=8.5, 2.4 Hz, 1H), 4.09 (t, J=6.2 Hz, 2H), 3.45-3.39 (m, 2H), 3.06-2.96 (m, 2H), 2.59 (s, 3H), 2.50 (s, 3H), 2.07-1.99 (m, 2H), 1.93-1.84 (m, 2H), 1.76-1.64 (m, 1H), 1.59-1.50 (m, 2H), 1.48-1.36 (m, 2H).

reactant | (3-hydroxy-propyl)-piperidine-1-carboxylic acid tert-butyl ester | 16.4 mmol, 4.00 g, 1.0 equiv | C(C)(C)(C)OC(=O)N1C(CCCC1)CCCO | C13H25NO3
reactant | triethylamine | 24.6 mmol, 3.40 mL, 1.5 equiv | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 19.7 mmol, 1.53 mL, 1.2 equiv | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | 4-(3-methanesulfonyloxy-propyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.56 mmol, 500 mg, 1.0 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCOS(=O)(=O)C | C14H27NO5S
reactant | 4-hydroxy-2-methyl-benzaldehyde | 1.56 mmol, 212 mg, 1.0 equiv | OC1=CC(=C(C=O)C=C1)C | C8H8O2
reactant | cesium carbonate | 3.12 mmol, 1.01 g, 2.0 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-[3-(4-Formyl-3-methyl-phenoxy)-propyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.41 mmol, 146 mg, 1.0 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCOC1=CC(=C(C=C1)C=O)C | C21H31NO4
reactant | 5-chloro-3-methyl-benzene-1,2-diamine | 0.41 mmol, 63 mg, 1.0 equiv | ClC1=CC(=C(C(=C1)N)N)C | C7H9ClN2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | 75 mL | O | H2O
product | 6-Chloro-4-methyl-2-[2-methyl-4-(3-piperidin-4-yl-propoxy)-phenyl]-1H-benzoimidazole | 52.1 mg | ClC=1C=C(C2=C(NC(=N2)C2=C(C=C(C=C2)OCCCC2CCNCC2)C)C1)C | C23H28ClN3O
